US04496560
Chloroacetyl chloride (12.37 g) is added to a solution of 3-(2-amino-thiazol-5-yl)-2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (60 g) in tetrahydrofuran (350 cc) cooled to 0° C., and triethylamine (16.3 cc) is then added in 6 minutes. After 1 hour at 0° C., the reaction mixture is diluted with a half-saturated sodium bicarbonate solution (800 cc) and extracted with ethyl acetate (3×200 cc). The combined organic phases are washed with a saturated sodium chloride solution (250 cc) and dried, after which they are concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. to give an orange froth (78 g) which is recrystallised from acetonitrile (300 cc) to give cream crystals (37.4 g) of 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-(2-chloroacetamido-thiazol-5-yl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene

reactant | Chloroacetyl chloride | 12.37 g | ClCC(=O)Cl | C2H2Cl2O
reactant | 3-(2-amino-thiazol-5-yl)-2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 60 g | NC=1SC(=CN1)C1=C(N2C(C(C2SC1)NC(=O)OC(C)(C)C)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C28H28N4O5S2
reactant | triethylamine | 16.3 cc | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 350 cc | O1CCCC1 | C4H8O
solvent | sodium bicarbonate | 800 cc | C([O-])(O)=O.[Na+]
product | 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-(2-chloroacetamido-thiazol-5-yl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 37.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C1=CN=C(S1)NC(CCl)=O)NC(=O)OC(C)(C)C)=O | C30H29ClN4O6S2
